US07713979B2
3-{6-Chloro-2-fluoro-3-[4-(4-methyl-piperazin-1-yl)-4-oxo-butyl]-benzyl}-1-cyclohexyl-pyrrolidin-2-one
Add 4-[4-chloro-3-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-2-fluoro-phenyl]-butyric acid (Preparation 80) (200 mg, 0.22 mmol), EDAC (63 mg, 0.33 mmol), HOBT (45, mg, 0.33 mmol), triethylamine (0.1 mL, 0.7 mmol) and 1-methylpiperazine (0.1 mL, 0.9 mmol) in THF (5 mL). Heat the mixture at 80° C. for 3 hours. Evaporate solvent and purify the residue by column chromatography to give the title product as white solid: Mass spectrum (ion spray): m/z=478.3 (M+H).

reactant | 4-[4-chloro-3-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-2-fluoro-phenyl]-butyric acid | 0.22 mmol, 200 mg | ClC1=C(C(=C(C=C1)CCCC(=O)O)F)CC1C(N(CC1)C1CCCCC1)=O | C21H27ClFNO3
reactant | EDAC | 0.33 mmol, 63 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.7 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 0.9 mmol, 0.1 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-{6-Chloro-2-fluoro-3-[4-(4-methyl-piperazin-1-yl)-4-oxo-butyl]-benzyl}-1-cyclohexyl-pyrrolidin-2-one | ClC1=CC=C(C(=C1CC1C(N(CC1)C1CCCCC1)=O)F)CCCC(=O)N1CCN(CC1)C | C26H37ClFN3O2
